US08247430B2
2-(4-Methoxy-benzylamino)-isonicotinonitrile
To pyridine (500 mL) were added 2-chloroisonicotinonitrile (22.0 g, 159 mmole), para-methoxybenzylamine (25 g, 114% Meq.), and NaHCO3 (30 g). The mixture was heated under reflux overnight. After cooling to RT, the mixture was filtered and the filter cake was rinsed with CH2Cl2. The combined filtrate was concentrated to dryness in vacuum to form a yellow solid. This solid is then recrystallized in EtOAc to give a light yellow crystalline compound and the mother liquor was concentrated and subjected to EtOAc again (repeating three times) to yield the desired compound.

reactant | 2-chloroisonicotinonitrile | 159 mmole, 22.0 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | para-methoxybenzylamine | 25 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | NaHCO3 | 30 g | C(=O)(O)[O-].[Na+]
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Methoxy-benzylamino)-isonicotinonitrile | COC1=CC=C(CNC=2C=C(C#N)C=CN2)C=C1 | C14H13N3O
